US07842696B2
To a stirred solution of 4-fluorobenzaldehyde (5 g, 40.28 mmol) and phenol (3.8 g, 44.42 mmol) in DMF (50 mL) was added K2CO3 (11.13 g, 80.57 mmol) and the resulting mixture was stirred at 110° C. overnight. The mixture was filtered, the filtrate was diluted with cold water and the product was extracted with EtOAc. The organic layer was washed with 5% aqueous NaOH solution, saturated brine solution and dried over sodium sulphate. The organic layer was then concentrated under reduced pressure to afford 7.7 g (96.5% yield) of 4-phenoxy benzaldehyde as a pale brown oil. 1H NMR: (CDCl3) δ 9.9 (s, 1H), 7.8 (d, 2H), 7.4 (t, 2H), 7.2 (t, 1H), 7.0 (t, 4H).

reactant | 4-fluorobenzaldehyde | 40.28 mmol, 5 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | phenol | 44.42 mmol, 3.8 g | C1(=CC=CC=C1)O | C6H6O
reactant | K2CO3 | 80.57 mmol, 11.13 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-phenoxy benzaldehyde | 7.7 g, 96.5% yield | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
